.SUBCKT Middlebrook VX VY IX IY V_IX V_IY Params: Amp=1 Phs=0
V_IY N001 IY 0
V_IX IX N001 0
B1 V_IY 0 V=I(V_IY)
B2 V_IX 0 V=I(V_IX)
I1 0 N001 AC {Amp} {Phs}
V1 VX VY AC {Amp} {Phs}
.ENDS
