*****************************************************************
* Renesas RQJ0601DQS
*
* Polarity P-Channel
* Ratings 60V/1.55E-01OHMS/1.4A
*
* Date Created Wed Jun  2 23:01:36 2010
*
*****************************************************************
.SUBCKT RQJ0601DQS DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 1.256636
RLD1 5 4 3.2e-05
LG GATE 1 1.24e-09
RLG GATE 1 77.911432
LS SOURCE 8 6.2e-10
RLS2 SOURCE 8 38.955716
RLS1 8 7 0.018

RDS 7 4 10722327459.8806 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0936822837381073 TC=0.00635269379914356,1.75817636586524e-05
RBD 9 4 0.0244924528816595 TC=0.00635269379914356,1.75817636586524e-05
DBD 9 7 DBD

M1 3 2 6 6 MINT

RGS 2 6 61068702.2900763
CGS 2 6 5.5267e-10
RG 1 2 8.80402

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    2 3 VALUE { V(13, 0)*I(V11) }
E11    12   0  2 3  1
E12    13   0  TABLE {V(12)}
+ -30	546.8
+ -25	546.8
+ -24	546.8
+ -23	546.8
+ -22	546.8
+ -21	546.8
+ -20	546.8
+ -19	546.8
+ -18	546.8
+ -17	546.8
+ -16	546.8
+ -15	546.8
+ -14	546.8
+ -13	546.8
+ -12	546.8
+ -11	546.8
+ -10	546.8
+ -9	546.8
+ -8	546.8
+ -7	546.8
+ -6	546.8
+ -5	546.75
+ -4	461.70
+ -3	376.65
+ -2	291.60
+ -1	206.55
+ 0	121.5
+ 1	67.5
+ 2	54.9
+ 3	49.4
+ 4	46.0
+ 5	43.5
+ 6	41.5
+ 7	39.9
+ 8	38.5
+ 9	37.2
+ 10	36.1
+ 11	35.1
+ 12	34.2
+ 13	33.4
+ 14	32.7
+ 15	32.0
+ 16	31.3
+ 17	30.8
+ 18	30.2
+ 19	29.7
+ 20	29.2
+ 21	28.7
+ 22	28.3
+ 23	27.9
+ 24	27.5
+ 25	27.1
+ 26	26.8
+ 27	26.43
+ 28	26.11
+ 29	25.8
+ 30	25.51
+ 31	25.23
+ 32	24.96
+ 33	24.7
+ 34	24.45
+ 35	24.21
+ 36	23.99
+ 37	23.77
+ 38	23.56
+ 39	23.35
+ 40	23.16
+ 41	22.97
+ 42	22.79
+ 43	22.62
+ 44	22.45
+ 45	22.29
+ 46	22.14
+ 47	21.99
+ 48	21.85
+ 49	21.71
+ 50	21.58
+ 51	21.45
+ 52	21.33
+ 53	21.22
+ 54	21.1
+ 55	20.99
+ 56	20.89
+ 57	20.79
+ 58	20.69
+ 59	20.6
+ 60	20.51



.MODEL MINT PMOS(Vto=-1.92225232921501 Kp=1.0159e+01 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=800)

.MODEL DBD D(Bv=75.8712 Ibv=0.01 Rs=1E-6 Is=8.9316148949517e-13
+ N=1 M=0.48 VJ=0.74 Fc=0.5 Cjo=1.385e-10 Tt=3.406e-09)

.ENDS
